US04490369
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-amino-3-nitro-phenyl}-ethyl)-amino]-propane hydrochloride
1.0 gm (1.75 mmols) of 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-acetamino-3-nitro-phenyl}-ethyl)-amino]-propane was heated in 50 ml of methanolic hydrochloric acid for two hours at 45°-50° C. The reaction solution was then evaporated; the residue was dissolved in methylene chloride; the solution was washed with a saturated aqueous sodium bicarbonate solution and dried over magnesium sulfate, and the solvent was distilled off in vacuo. After purification of the residue on silica gel with methylene chloride and 5% ethanol as the eluant, the hydrochloride was precipitated from acetone by addition of ethereal hydrochloric acid.

reactant | 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-acetamino-3-nitro-phenyl}-ethyl)-amino]-propane | 1.75 mmols, 1.0 gm | COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC(=C(C=C2)NC(=O)C)[N+](=O)[O-])C)=O)C=C1OC | C26H34N4O6
reactant | hydrochloric acid | 50 ml | Cl | ClH
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-amino-3-nitro-phenyl}-ethyl)-amino]-propane hydrochloride | Cl.COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC(=C(C=C2)N)[N+](=O)[O-])C)=O)C=C1OC | InChI=1S/C24H32N4O5.ClH/c1-26(11-7-17-5-6-20(25)21(13-17)28(30)31)9-4-10-27-12-8-18-14-22(32-2)23(33-3)15-19(18)16-24(27)29;/h5-6,13-15H,4,7-12,16,25H2,1-3H3;1H
